US06329550B1
Combine diethyl aminomalonate hydrochloride (13.34 g, 63.0 mmol), triethylamine (8.8 mL, 63.0 mmol), and dichloromethane (220 mL). Add di-t-butyl dicarbonate (14.4 g, 66.2 mmol). After 18 hours, extract with an aqueous 5% sulfuric acid solution, a saturated aqueous sodium bicarbonate solution, and brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give diethyl t-butoxycarbonylaminomalonate (103%).

reactant | diethyl aminomalonate hydrochloride | 63.0 mmol, 13.34 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | triethylamine | 63.0 mmol, 8.8 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 66.2 mmol, 14.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 220 mL | ClCCl | CH2Cl2
product | diethyl t-butoxycarbonylaminomalonate | 103% | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)OCC | C12H21NO6
